US06825208B2
6-(4-Hydroxy-3-methoxy-phenyl)-5,6,6a,7,8,12b-hexahydro-benzo[k]phenanthridine-2-carbonitrile (0.1 mmol; 38.2 mg) was added at 10° C. to a mixture obtained by pre-treating sodium borohydride (600 mg) in 4 mL of THF with a mixture of THF (2 mL) and TFA (1.2 mL). The reaction mixture was reacted overnight before quenching with 1 mL of 10% HCl solution. The mixture was further heated for 1 hour before it was extracted using ammonium hydroxide and water. The organic phase was dried over magnesium sulfate and evaporated to dryness. The residue was purified using HPLC to yield compound 4-(2-Aminomethyl-5,6,6a,7,8,12b-hexahydro-benzo[k]phenanthridin-6-yl)-2-methoxy-phenol. Mass spectrum 369(M−17);in the presence of 0.1M ammonium acetate 385 (M−1) observed for negative ion mode.

reactant | 6-(4-Hydroxy-3-methoxy-phenyl)-5,6,6a,7,8,12b-hexahydro-benzo[k]phenanthridine-2-carbonitrile | 0.1 mmol, 38.2 mg | OC1=C(C=C(C=C1)C1NC=2C=CC(=CC2C2C3=C(CCC12)C=CC=C3)C#N)OC | C25H22N2O2
reactant | sodium borohydride | 600 mg | [BH4-].[Na+]
reactant | TFA | 1.2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-(2-Aminomethyl-5,6,6a,7,8,12b-hexahydro-benzo[k]phenanthridin-6-yl)-2-methoxy-phenol | NCC1=CC=2C3C4=C(CCC3C(NC2C=C1)C1=CC(=C(C=C1)O)OC)C=CC=C4 | C25H26N2O2
